US05648536
reacting 5-amino-N,N'-bis(2,3-dihydroxypropyl)-2,4,6-triiodoisopthalamide with chloroacetyl chloride in N,N-dimethylacetamide to produce N,N'-bis[2,3-di(2-chloroacetoxy)propyl]-5-(2-chloroacetamido)-2,4,6-triiodoisophthalamide;

reactant | 5-amino-N,N'-bis(2,3-dihydroxypropyl)-2,4,6-triiodoisopthalamide | NC=1C(=C(C(=C(C(=O)NCC(CO)O)C1I)I)C(=O)NCC(CO)O)I | C14H18I3N3O6
reactant | chloroacetyl chloride | ClCC(=O)Cl | C2H2Cl2O
solvent | N,N-dimethylacetamide | CN(C(C)=O)C | C4H9NO
product | N,N'-bis[2,3-di(2-chloroacetoxy)propyl]-5-(2-chloroacetamido)-2,4,6-triiodoisophthalamide | ClCC(=O)OC(CNC(C1=C(C(C(=O)NCC(COC(CCl)=O)OC(CCl)=O)=C(C(=C1I)NC(CCl)=O)I)I)=O)COC(CCl)=O | C24H23Cl5I3N3O11
